US08003651B2
To a solution of (R)-tert-butyl 4-(7,7-difluoro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (0.092 g, 0.260 mmol) in 2 mL dioxane was added 4M HCl/dioxane (2.27 ml, 9.09 mmol). The reaction mixture was stirred at room temperature 16 hours, after which it was concentrated to dryness and dried in vacuo to give (R)-7,7-difluoro-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride (0.079 g, 93.0% yield) as a pale yellow powder. MS (APCI+) m/z 255 [M+H]+.

reactant | (R)-tert-butyl 4-(7,7-difluoro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 0.260 mmol, 0.092 g | FC1(C[C@H](C2=C1N=CN=C2N2CCN(CC2)C(=O)OC(C)(C)C)C)F | C17H24F2N4O2
reactant | HCl dioxane | 9.09 mmol, 4M, 2.27 ml | Cl.O1CCOCC1
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (R)-7,7-difluoro-5-methyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine dihydrochloride | 0.079 g, 93.0% yield | Cl.Cl.FC1(C[C@H](C2=C1N=CN=C2N2CCNCC2)C)F | InChI=1S/C12H16F2N4.2ClH/c1-8-6-12(13,14)10-9(8)11(17-7-16-10)18-4-2-15-3-5-18;;/h7-8,15H,2-6H2,1H3;2*1H/t8-;;/m1../s1
